US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)-4-(piperidin-1-yl)-1H-pyrrol-2(5H)-one (E27)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (0.90 g, 2.4 mmol) and piperidine (4 ml) in toluene/DMF (2:1; 15 ml) according to method 8a described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | 2.4 mmol, 0.90 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)O)=O | C21H20N4O3
reactant | piperidine | 4 ml | N1CCCCC1 | C5H11N
solvent | toluene DMF | 15 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)-4-(piperidin-1-yl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)N2CCCCC2)=O | C26H29N5O2
